US07329694B2
N-[2-(2-hydroxyethoxy)ethyl]acrylamide (35.87 g), potassium hydroxide (15.2 g), tetrahydrofuran (100 g) and methyl iodide (33.58 g) were introduced into a 1 L eggplant type flask equipped with a reflux condenser and a magnetic rotor. A reaction was carried out at 45° C. for 2 hours and then for 2 hours at 60° C. as the mixture was being stirred. The salt that separated out was removed by filtration and the low boiling point components were removed by means of a rotary vacuum evaporator. Purification was performed by distillation under reduced pressure and N-[2-(2-methoxyethoxy)ethyl]acrylamide was obtained as a yellow transparent, viscous liquid.

reactant | N-[2-(2-hydroxyethoxy)ethyl]acrylamide | 35.87 g | OCCOCCNC(C=C)=O | C7H13NO3
reactant | potassium hydroxide | 15.2 g | [OH-].[K+]
reactant | methyl iodide | 33.58 g | CI | CH3I
solvent | tetrahydrofuran | 100 g | O1CCCC1 | C4H8O
product | N-[2-(2-methoxyethoxy)ethyl]acrylamide | COCCOCCNC(C=C)=O | C8H15NO3
